US04792616
by using potassium 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenolate and diethyl (2-bromopropionyloxy)-methylphosphonate there is obtained diethyl [2-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenoxy]-propionyloxy]methylphosphonate, 1H-NMR (CDCl3 ; 400 MHz) 7.93 ppm (d, 1H), 7.79 ppm (d, 1H), 7.58 ppm (q, 1H), 7.21 ppm (d, 1H), 6.63 ppm (d, 1H), 6.49 ppm (q, 1H), 4.89 ppm (q, 1H), 4.45 ppm (m, 2H), 4.14 ppm (m, 4H), 1.74 ppm (d, 3H), 1.32 ppm (tt, 6H).

reactant | potassium 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenolate | ClC1=C(OC=2C=CC(=C(C2)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F.[K+]
reactant | diethyl (2-bromopropionyloxy)-methylphosphonate | BrC(C(=O)OCP(OCC)(OCC)=O)C | C8H16BrO5P
product | diethyl [2-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrophenoxy]-propionyloxy]methylphosphonate | ClC1=C(OC=2C=CC(=C(OC(C(=O)OCP(OCC)(OCC)=O)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C21H22ClF3NO9P
